US09227978B2
(4,5-Dichloro-2-methoxyphenyl)methanamine
To a solution of 2-(4,5-dichloro-2-methoxybenzyl)isoindoline-1,3-dione (1.8 g, 5 mmol) in EtOH (5 mL), hydrazine hydrate (1.34 g, 27 mmol) was added and the resulting mixture was stirred at reflux for 1 h. The mixture was concentrated in vacuo and the residue was purified by flash column chromatography on silica gel (dichloromethane/methanol=20:1) to afford the desired product (0.8 g, 78% yield).

reactant | 2-(4,5-dichloro-2-methoxybenzyl)isoindoline-1,3-dione | 5 mmol, 1.8 g | ClC1=CC(=C(CN2C(C3=CC=CC=C3C2=O)=O)C=C1Cl)OC | C16H11Cl2NO3
reactant | hydrazine hydrate | 27 mmol, 1.34 g | O.NN
solvent | EtOH | 5 mL | CCO | C2H6O
product | (4,5-Dichloro-2-methoxyphenyl)methanamine | 0.8 g, 78% yield | ClC1=CC(=C(C=C1Cl)CN)OC | C8H9Cl2NO
